US08106194B2
Synthesis of 8-(4-bromo-2,6-dimethyl-phenyl)-2-methyl-4-(N,N-dipropylamino)-pyrrolo[1,2-a]pyrimidine-6-carboxylic acid amide (Compound 1-022)
A mixture of 8-(4-bromo-2,6-dimethyl-phenyl)-4-methanesulfinyl-2-methyl-pyrrolo[1,2-a]pyrimidine-6-carboxylic acid amide (100 mg), N,N-dipropylamine (48 mg) in ethanol (1 mL) was heated at reflux for 1 h. The reaction mixture was cooled to room temperature, poured into a saturated aqueous sodium hydrogencarbonate, and then extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous sodium sulfate and filtered. The filtrate was concentrated under reduced pressure and the residue was purified by a silica gel column chromatography (silica gel: Wako Gel (C200), eluent: hexane/ethyl acetate=1:1) to give a solid. The solid was washed with a mixture of diisopropylether and ethyl acetate to give the title compound (50 mg).

reactant | 8-(4-bromo-2,6-dimethyl-phenyl)-4-methanesulfinyl-2-methyl-pyrrolo[1,2-a]pyrimidine-6-carboxylic acid amide | 100 mg | BrC1=CC(=C(C(=C1)C)C=1C=C(N2C1N=C(C=C2S(=O)C)C)C(=O)N)C | C18H18BrN3O2S
reactant | N,N-dipropylamine | 48 mg | C(CC)NCCC | C6H15N
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | 8-(4-bromo-2,6-dimethyl-phenyl)-2-methyl-4-(N,N-dipropylamino)-pyrrolo[1,2-a]pyrimidine-6-carboxylic acid amide | 50 mg | BrC1=CC(=C(C(=C1)C)C=1C=C(N2C1N=C(C=C2N(CCC)CCC)C)C(=O)N)C | C23H29BrN4O
